US08440652B2
In particular, a slurry of 2-amino-5-bromopridine (1.24 g, 4.67 mmol), 4-(ethylsulfonyl)phenylboronic acid (1.10 g, 5.14 mmol), and Pd(PPh3)4 (0.16 g, 0.13 mmol) in n-BuOH (20 mL) was treated with 2.0 M aq. Na2CO3 (4.5 mL). The reaction was sparged with dry N2 under sonication for 10 min to degas, and then refluxed for 16 h at 100° C. At completion, the reaction was cooled to room temperature and concentrated to dryness. The residue was partitioned between EtOAc (50 mL) and water (30 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL). The combined organics were washed with brine (20 mL), dried over Na2SO4 and concentrated. The crude material was purified by flash chromatography over silica gel (30-100% EtOAc:hexane eluent) to provide 5-(4-(ethylsulfonyl)phenyl)pyridin-2-amine as a white solid (0.57 g, 47% yield). 1H NMR (300 MHz, MeOH) δ ppm 8.27-8.31 (m, 1H), 7.91-7.98 (m, 2H), 7.79-7.89 (m, 3 H), 6.71 (dd, J=8.7, 0.7 Hz, 1H), 3.30-3.35 (m, 2H), 3.24 (q, J=7.4 Hz, 2H), 1.25 (t, J=7.4 Hz, 3H); MS (EI) m/z: 263 [M+H]+.

reactant | 2-amino-5-bromopridine | 4.67 mmol, 1.24 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-(ethylsulfonyl)phenylboronic acid | 5.14 mmol, 1.10 g | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
reactant | Na2CO3 | 2.0 M, 4.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-BuOH | 20 mL | CCCCO | C4H10O
catalyst | Pd(PPh3)4 | 0.13 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-(ethylsulfonyl)phenyl)pyridin-2-amine | 0.57 g, 47% yield | C(C)S(=O)(=O)C1=CC=C(C=C1)C=1C=CC(=NC1)N | C13H14N2O2S
